US09238639B2
A) 8-Chloro-4-(chloromethyl)-7-hydroxy-2H-chromen-2-one
To ethyl 4-chloro-3-oxobutanoate (4.91 mL) was added sulfuric acid (12.91 mL) at 0° C., then was added 2-chlorobenzene-1,3-diol (5.0 g) in several portions at 0° C. The mixture was warmed to room temperature and stirred at the same temperature for 2 h. The reaction mixture was poured into water under stirring at 0° C. The precipitate was collected by m filtration and washed with hexane to give the title compound (2.78 g).

reactant | ethyl 4-chloro-3-oxobutanoate | 4.91 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sulfuric acid | 12.91 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-chlorobenzene-1,3-diol | 5.0 g | ClC1=C(C=CC=C1O)O | C6H5ClO2
solvent | water | O | H2O
product | 8-Chloro-4-(chloromethyl)-7-hydroxy-2H-chromen-2-one | 2.78 g | ClC=1C(=CC=C2C(=CC(OC12)=O)CCl)O | C10H6Cl2O3
